US04310619
Synthesis of 1-(2,4,6-Trichlorophenyl)-3-[4-(2,4-di-tert-amylphenoxy)butyramido]-4-(3,5-dimethylpyrazolyl)-5-oxo-2-pyrazoline [Coupler (1)]
66 g of 1-(2,4,6-trichlorophenyl)-3-[4-(2,4-di-tert-amylphenoxy)butyramido]-4-bromo-5-oxo-2-pyrazoline and 27 g of 3,5-dimethylpyrazole were mixed well with each other in a mortar, then stirred for 2 hours under heating at 100° C. To the reaction mixture was added 1 liter of ethyl acetate followed by washing several times with water. The ethyl acetate layer was dried with anhydrous sodium sulfate and concentrated. Upon crystallization of the residue from ethyl acetate, 35 g of Coupler (1) was obtained. The melting point of the coupler was 207° to 209° C.

reactant | 1-(2,4,6-trichlorophenyl)-3-[4-(2,4-di-tert-amylphenoxy)butyramido]-4-bromo-5-oxo-2-pyrazoline | 66 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)Br)NC(CCCOC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O | C29H35BrCl3N3O3
reactant | 3,5-dimethylpyrazole | 27 g | CC1=NNC(=C1)C | C5H8N2
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | 1-(2,4,6-Trichlorophenyl)-3-[4-(2,4-di-tert-amylphenoxy)butyramido]-4-(3,5-dimethylpyrazolyl)-5-oxo-2-pyrazoline | ClC1=C(C(=CC(=C1)Cl)Cl)N1N=C(C(C1=O)C=1C(=NNC1C)C)NC(CCCOC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O | C34H42Cl3N5O3
